US07576206B2
Step 3: Piperidine-4-carboxylic Acid Benzyl Ester, hydrochloride salt
1-[(1,1-Dimethylethoxycarbonyl)amino]-piperidine-4-carboxylic acid benzyl ester (7 g, 21.0 mmol), from step 2, was dissolved in 1,4-dioxane (20 ml). To this solution, HCl 4N in 1,4-dioxane (7.8 ml, 300 ml, 12 eq.) was added and the resulting solution was stirred overnight at room temperature. The solid was filtered, suspended in n-hexane (50 ml), and filtered to give a white solid. Yield 54%, 2.5 g.

reactant | 1-[(1,1-Dimethylethoxycarbonyl)amino]-piperidine-4-carboxylic acid benzyl ester | 21.0 mmol, 7 g | C(C1=CC=CC=C1)OC(=O)C1CCN(CC1)NC(=O)OC(C)(C)C | C18H26N2O4
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 7.8 ml, 12 eq. | O1CCOCC1 | C4H8O2
product | Piperidine-4-carboxylic Acid Benzyl Ester, hydrochloride salt | Yield 54% | Cl.C(C1=CC=CC=C1)OC(=O)C1CCNCC1 | InChI=1S/C13H17NO2.ClH/c15-13(12-6-8-14-9-7-12)16-10-11-4-2-1-3-5-11;/h1-5,12,14H,6-10H2;1H
